US08629282B2
(4R,5S)-4-Methyl-3-(3-oxocyclohexanecarbonyl)-5-phenyloxazolidin-2-one
Racemic 3-oxocyclohexanecarboxylic acid (1.0 g, 7.03 mmol) was dissolved in THF (27.1 mL). To this solution was added triethylamine (1.9 mL, 13.5 mmol) followed by pivaloyl chloride (0.8 mL, 6.5 mmol) at −20° C. The resulting mixture was stirred at −20° C. for 1 h. After that, LiCl (0.252 g, 5.9 mmol) and (4R,5S)-4-methyl-5-phenyloxazolidin-2-one (0.959 g, 5.4 mmol) were added to the solution at −20° C. The reaction mixture was warmed to room temperature and stirred overnight, before the reaction was quenched with 0.2 N HCl. The THF was removed and the resulting mixture was partitioned by 0.2 N HCl and EtOAc. The organic layer was collected and washed with brine, dried (MgSO4) and concentrated. The resulting residue was purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21.2×250 mm, isocratic elution with Method 1-MeOH/water containing 0.1% trifluoroacetic acid as defined above, 51% B over 30 min, 25 mL/min, 220 nM: the first peak (retention time=15.3 min) was (4R,5S)-4-methyl-3-((S)-3-oxocyclohexanecarbonyl)-5-phenyloxazolidin-2-one, Int-8A, (LCMS=302.0 [M+H]+), and the second peak (retention time=19.6 min) was (4R,5S)-4-methyl-3-((R)-3-oxocyclohexanecarbonyl)-5-phenyloxazolidin-2-one, Int-8B, LCMS=324.1 [M+Na]+ by comparison to the R-3-oxocyclohexanecarboxylic acid case (Aust. J. Chem., 34:2231 (1981)).

reactant | Racemic 3-oxocyclohexanecarboxylic acid | 7.03 mmol, 1.0 g | O=C1CC(CCC1)C(=O)O | C7H10O3
reactant | triethylamine | 13.5 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 6.5 mmol, 0.8 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | LiCl | 5.9 mmol, 0.252 g | [Li+].[Cl-]
reactant | (4R,5S)-4-methyl-5-phenyloxazolidin-2-one | 5.4 mmol, 0.959 g | C[C@H]1NC(O[C@H]1C1=CC=CC=C1)=O | C10H11NO2
solvent | THF | 27.1 mL | C1CCOC1 | C4H8O
product | (4R,5S)-4-Methyl-3-(3-oxocyclohexanecarbonyl)-5-phenyloxazolidin-2-one | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(=O)C1CC(CCC1)=O | C17H19NO4
